US08445684B2
2M anhydrous HCl/ether (2.0 mL) was added to a stirred solution of 4-[(1S,2S)-2-[5-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]cyclopropyl]-1-butanol (200 mg, 0.53 mmol) in dry MeOH (2.0 mL) at 0° C. The mixture was stirred at room temperature for 12 h. The above solution was concentrated in vacuo and purified by HPLC to obtain 4-[(1S,2S)-2-[5-[(2(S)-azetidinyl)methoxy]-3-pyridyl]cyclopropyl]-1-butanol hydrochloride (128 mg). 1H NMR (CD3OD, 300 MHz) δ 8.25 (br s, 2H), 7.51 (s, 1H), 5.02-4.93 (m, 2H), 4.55-4.38 (m, 2H), 4.21-4.00 (m, 2H), 3.56 (t, 2H, J=6.2 Hz), 2.82-2.55 (m, 2H), 1.93-1.75 (m, 1H), 1.70-1.36 (m, 6H), 1.33-1.17 (m, 1H), 1.16-1.06 (m, 1H), 1.05-0.93 (m, 1H). MS (ESI) m/z 277 (M+H+).

reactant | HCl ether | 2M, 2.0 mL | Cl.CCOCC
reactant | 4-[(1S,2S)-2-[5-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]cyclopropyl]-1-butanol | 0.53 mmol, 200 mg | C(C)(C)(C)OC(=O)N1[C@@H](CC1)COC=1C=C(C=NC1)[C@@H]1[C@H](C1)CCCCO | C21H32N2O4
solvent | MeOH | 2.0 mL | CO | CH4O
product | 4-[(1S,2S)-2-[5-[(2(S)-azetidinyl)methoxy]-3-pyridyl]cyclopropyl]-1-butanol hydrochloride | 128 mg | Cl.N1[C@@H](CC1)COC=1C=C(C=NC1)[C@@H]1[C@H](C1)CCCCO | InChI=1S/C16H24N2O2.ClH/c19-6-2-1-3-12-8-16(12)13-7-15(10-17-9-13)20-11-14-4-5-18-14;/h7,9-10,12,14,16,18-19H,1-6,8,11H2;1H/t12-,14-,16-;/m0./s1
